Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Motrin / Zantac / Penicillins / levofloxacin
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
Endoscopy on ___, biopsies pending

 
History of Present Illness:
This is a ___ year old ___ female with PMHx of DM, 
HTN, HLD, asthma, depression, anxiety and multiple abdominal 
surgeries in the past, who is admitted for abdominal pain. 
Patient reports that she has been feeling diffuse abdominal pain 
for the last 2 weeks. However, when inquiring more about it, 
patient reports that she has had the pain for the last months. 
She states that since ___ the pain has gotten worse and has 
been associated with decreased appetite and decrease in oral 
intake. Patient reports that the pain is worse in the epigastric 
and RUQ area, but "she feels it everywhere". She reports that 
the pain has been worse with food intake, especially when she 
has greasy foods. She had an episode of vomit this morning. She 
denies diarrhea or constipation. She reports "dark stools" in 
the past. She passed the last BM today. She reports chills, but 
it is not sure if she has had any fever. She denies urinary 
symptoms, chest pain, LH, dizziness, weight loss.  

 
Past Medical History:
Past Medical History:
- IDDM
- HTN
- HLD
- asthma
- migraines
- chronic back pain
- depression & anxiety, recent ED evaluation on ___ for SI

Past Surgical History:
___: L salpingo-oophorectomy complicated by sigmoid
perforation
___: Sigmoid  resection,  creation  ___ pouch,
takedown of splenic flexure and sigmoid colostomy.
___: I&D, debridement of abdominal abscess
___: Left colectomy/colostomy closure, takedown splenic
flexure, diverting ileostomy
___: Ileostomy take-down
___: Laparotomy, excision of scar and extensive
adhesiolysis.
___: Ventral hernia repair w/ vicryl mesh
___: Incisional hernia repair w/ mesh
___: Medial L knee meniscectomy
___: R knee meniscectomy
___: R total knee replacement

 
Social History:
___
Family History:
Family history is notable for cardiac disease of her sisters. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS: 98.0 BP 131 / 72 HR 71 RR 16 O2 sats 96% RA  
General: Alert, oriented, no acute distress  
Neck: Supple, no JVP distention.  
Cardiac: Regular heart sounds, no murmurs.  
Pulm: No respiratory effort, expiratory wheezing.  
Abdominal: Soft, distended, diffuse tenderness at palpation, 
more marked in the epigastric and RUQ area. No guarding.  
Extremities: Warm, well perfused, no edema. 

DISCHARGE PHYSICAL EXAM:
VITAL SIGNS:  T 98.0 BP 112 / 67 HR 74 RR 20 O2 96% RA 
GENERAL: No acute distress, tired-appearing 
HEENT: NCAT, EOMI, MMM, oropharynx clear
NECK: supple
CV: RRR, S1S2 normal, no MRG, 2+ radial pulses b/l
RESP: lungs CTAB, no increased work of breathing
GI: normoactive bowel sounds, soft, mild diffuse tenderness to
palpation, no organomegaly
EXTREMITIES: no edema, cyanosis, or clubbing
SKIN: No rashes or petechiae
NEURO: AAOx3, strength and sensation grossly normal throughout
 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:40PM BLOOD WBC-6.4 RBC-4.25 Hgb-11.8 Hct-38.0 MCV-89 
MCH-27.8 MCHC-31.1* RDW-14.7 RDWSD-47.5* Plt ___
___ 12:40PM BLOOD Neuts-62.7 ___ Monos-6.6 Eos-0.3* 
Baso-0.3 Im ___ AbsNeut-3.98 AbsLymp-1.89 AbsMono-0.42 
AbsEos-0.02* AbsBaso-0.02

___ 12:40PM BLOOD Glucose-205* UreaN-29* Creat-2.3*# Na-140 
K-5.0 Cl-99 HCO3-20* AnGap-21*
___ 12:40PM BLOOD ALT-38 AST-33 AlkPhos-109* TotBili-0.4

___ 01:06PM BLOOD Lactate-4.7*
___ 06:10PM BLOOD Lactate-2.1*
___ 07:24AM BLOOD Lactate-1.6

MICROBIOLOGY:
=============
   HELICOBACTER PYLORI ANTIBODY TEST (Final ___: 
      NEGATIVE BY EIA. 

IMAGING/REPORTS:
================
Endoscopy ___: Biopsy results normal

DISCHARGE LABS:
==============

___ 07:45AM BLOOD WBC-2.4* RBC-3.52* Hgb-9.8* Hct-31.1* 
MCV-88 MCH-27.8 MCHC-31.5* RDW-14.2 RDWSD-45.5 Plt Ct-64*
___ 07:45AM BLOOD Glucose-312* UreaN-11 Creat-1.0 Na-142 
K-4.7 Cl-106 HCO3-21* AnGap-15
 
Brief Hospital Course:
PATIENT SUMMARY
___ year old woman with a PMH DM, HTN, HLD, Asthma, and multiple 
abdominal surgeries after a complicated oophorectomy, who 
presents with 2 weeks worsening epigastric pain and acute kidney 
injury. She was resuscitated with fluids with subsequent 
resolution of ___. Given persistent abdominal pain concerning 
for PUD vs gastritis, she underwent endoscopy on ___ which 
showed patchy erythema. Biopsies were taken, and she was 
discharged with close GI and PCP ___. 

ACUTE ISSUES:
===============
#Abdominal Pain, possible dyspepsia
Patient presented with 2 weeks of epigastric pain, worse with 
meals, unrelieved by PPI therapy. She has a prolonged history of 
abdominal
surgeries following an oophorectomy with subsequent sigmoid 
perforation. On admission, CT showed no evidence SBO or 
pathology at her previous anastomosis. She was empirically 
treated with IV antibiotics over concern for intraabdominal 
infection. However, she remained afebrile with no leukocytosis, 
with overall low concern for infection, so antibiotics were 
stopped upon arrival to the floor. Recal occult blood test was 
negative. Her pain is likely secondary to gastritis vs peptic 
ulcer disease. 

GI was consulted for endoscopy given her history of gastritis 
and failure of a PPI trial. Endoscopy was performed on ___ and 
showed patchy erythema. Biopsies were taken, and patient will 
follow up in GI clinic with Dr. ___ (fellow). Her home 
omeprazole 20 mg PO BID was continued. Dicyclomine was changed 
to four times a day. H. pylori antibody testing was negative.

#Acute kidney injury
Creatinine was 2.3 on admission, likely secondary to pre-renal 
zotemia, ___ to hypovolemia in the setting of poor po intake 
from continued abdominal pain. Her Creatinine was 1.0 on 
discharge. Furosemide was held on admission and at discharge. 
Lisinopril was held on admission and restarted at discharge. 

CHRONIC PROBLEMS
================
# Pancytopenia: Stable throughout admission. 

# HTN: Furosemide was held on admission and at discharge. 
Lisinopril was held on admission and restarted at discharge. 

# HLD: Home simvastatin was continued.

# Chronic back pain: Gabapentin was continued at reduced renal 
dose until resolution of ___. Tylenol and Tramadol were given 
PRN. 

# Asthma:
Home regimen was continued: Fluticasone-Salmeterol Diskus, 
Fluticasone Propionate, Cetirizine and Montelukast.

# Psych: Home regimen was continued: Fluoxetine, Clonazepam, 
Quetiapine

# Diabetes Mellitus: Lantus 20 units in the morning and HISS 
were given in the hospital. Metformin, glipizide and sitagliptin 
were held. She will resume her home regimen. 

TRANSITIONAL ISSUES:
===================
[ ] Dicyclomine was increased to ___ need to be titrated
[ ] Follow up with PCP.
[ ] Evaluation of pancytopenia (ITP vs MDS vs other etiology)
[ ] Lasix held at discharge in setting of pre-renal ___, BPs 
were stable in the 110s-120s/60s-70s while in hospital. 
Re-evaluate BPs as outpatient and consider restarting Lasix vs 
adjusting regimen. 

#CODE: Full 
#EMERGENCY CONTACT HCP: 
Name of health care proxy: ___ 
___: daughter 
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Cetirizine 10 mg PO DAILY 
2. ClonazePAM 1 mg PO Q8H:PRN anxiety  
3. Docusate Sodium 100 mg PO BID:PRN constipation  
4. FLUoxetine 40 mg PO DAILY 
5. Furosemide 20 mg PO DAILY 
6. Gabapentin 600 mg PO TID 
7. Lisinopril 5 mg PO DAILY 
8. Omeprazole 20 mg PO BID 
9. Simvastatin 40 mg PO QPM 
10. Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN migraine  
11. MetFORMIN (Glucophage) 1000 mg PO BID 
12. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
13. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
14. Glargine 22 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
15. SITagliptin 100 mg oral DAILY 
16. QUEtiapine Fumarate 200 mg PO QHS 
17. Montelukast 10 mg PO DAILY 
18. DICYCLOMine 10 mg PO BID:PRN GI cramping 
19. GlipiZIDE 10 mg PO DAILY 
20. Venlafaxine XR 300 mg PO QAM 
21. Zolpidem Tartrate 10 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN migraine  
Do not exceed 6 tablets/day  
2.  Docusate Sodium 100 mg PO BID:PRN constipation   
3.  DICYCLOMine 10 mg PO ___ GI cramping  
4.  Glargine 22 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
5.  Cetirizine 10 mg PO DAILY  
6.  ClonazePAM 1 mg PO Q8H:PRN anxiety   
7.  FLUoxetine 40 mg PO DAILY  
8.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
9.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
10.  Gabapentin 600 mg PO TID  
11.  GlipiZIDE 10 mg PO DAILY  
12.  Lisinopril 5 mg PO DAILY  
13.  MetFORMIN (Glucophage) 1000 mg PO BID  
14.  Montelukast 10 mg PO DAILY  
15.  Omeprazole 20 mg PO BID  
16.  QUEtiapine Fumarate 200 mg PO QHS  
17.  Simvastatin 40 mg PO QPM  
18.  SITagliptin 100 mg oral DAILY  
19.  Venlafaxine XR 300 mg PO QAM  
20.  Zolpidem Tartrate 10 mg PO QHS  
21. HELD- Furosemide 20 mg PO DAILY  This medication was held. 
Do not restart Furosemide until you see your primary care 
doctor.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Abdominal Pain

SECONDARY DIAGNOSES:
Pancytopenia
Diabetes Mellitus II

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
-You were admitted for abdominal pain and vomiting.

WHAT HAPPENED IN THE HOSPITAL?
-You were given antibiotics until we felt certain that your pain 
was NOT due to an infection.
-You were found to be dehydrated with low blood pressure and 
acute kidney injury. You were given IV fluids and these issues 
resolved. 

WHAT SHOULD YOU DO AT HOME?
-You should continue taking all your medications as prescribed.
-You should follow up with your primary care doctor. 
-___ should follow up with your new GI doctor at the appointment 
listed below.
-You should avoid fatty foods and soda, which can make your 
stomach pain worse.

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team

 
Followup Instructions:
___